US07691882B2
4-(5-(2-Amino-pyridin-3-yl)isoxazol-3-ylmethyl)-phenol
To a mixture of 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine (32 mg, 0.090 mmol) described in Example 1 and trifluoroacetic acid (1 mL) was added thioanisole (45 mg, 0.36 mmol) at room temperature, which was stirred for 2 hours at the same temperature. To a mixture of saturated aqueous sodium hydrogencarbonate solution and ethyl acetate was added the reaction mixture. The organic layer was separated and washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=4:1) to obtain the title compound (24 mg, 100%).

reactant | 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 0.090 mmol, 32 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H19N3O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | thioanisole | 0.36 mmol, 45 mg | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-(2-Amino-pyridin-3-yl)isoxazol-3-ylmethyl)-phenol | 24 mg, 100% | NC1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
